US07625932B2
Additional Preparation of ethyl 4-cyano-3-[4-(2-cyanophenyl)phenyl]-5-ethyl-1-methylpyrrole-2-carboxylate
Add 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]benzenecarbonitrile (0.916 grams, 0.003 moles, prepared in preparation 58), 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester (0.996 grams, 0.003 moles, prepared in preparation 38), isopropyl acetate (14 mL) and ethanol (6 mL) to a 100 mL 3-neck flask. Stir the mixture under a nitrogen atmosphere and add palladium black (0.0319 grams, 0.0003 moles). Add a solution of potassium carbonate (0.663 grams, 0.0048 moles) in water (6 mL). Heat the mixture to reflux at 75° C. for 135 minutes. Add bis(acetato)bis(triphenylphosphine)palladium (II) (0.045 grams, 0.00006 moles) and continue heating at reflux for an additional 105 minutes. Add a solution of potassium carbonate (0.16 grams, 0.00116 moles) in water and continue heating at reflux for an additional 195 minutes. Cool the mixture to room temperature and stir for about 16 hours. Warm the mixture to 75° C. and filter to remove palladium black. Transfer the filtrate to a separatory funnel and add acetone (20 mL) to redissolve a precipitate and then separate the phases. Discard the aqueous phase. Concentrate the organic phase to a solid under reduced pressure (15-25 mm) and suspend the solid in ethanol (3 mL) and water (7 mL). Filter the suspension to recover the solid, and transfer the solid to a 20 mL vial. Add ethanol (12 mL) and warm to reflux. Slowly cool the resulting solution to about 23° C. and filter the resulting suspension to recover the precipitate. Dry the solid at 45° C. under reduced pressure (15-25 mm) to provide the title compound (0.72 g, 0.00188 moles) in 62.6% yield. 1H NMR (CDCl3, 500 MHz): δ 7.77 (app d, 2H, J=8); 7.66 (app. td, 1H. J=117.5): 7.57 (m, 3H), 7.49-7.43 (m,3H); 4.10 (q, 2H, J=6.5); 3.91 (s, 3H); 2.87 (q, 2H, J=8); 1.32 (t, 3H, J=7.5); 1.04 (t, 3H, J=7).

reactant | 2-[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]benzenecarbonitrile | 0.003 moles, 0.916 grams | CC1(OB(OC1(C)C)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N)C | C19H20BNO2
reactant | 4-cyano-5-ethyl-3-iodo-1-methyl-1H-pyrrole-2-carboxylic acid ethyl ester | 0.003 moles, 0.996 grams | C(C)OC(=O)C=1N(C(=C(C1I)C#N)CC)C | C11H13IN2O2
reactant | isopropyl acetate | 14 mL | C(C)(=O)OC(C)C | C5H10O2
reactant | potassium carbonate | 0.0048 moles, 0.663 grams | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 0.00116 moles, 0.16 grams | C([O-])([O-])=O.[K+].[K+]
solvent | water | 6 mL | O | H2O
catalyst | palladium black | 0.0003 moles, 0.0319 grams | [Pd] | Pd
catalyst | bis(acetato)bis(triphenylphosphine)palladium (II) | 0.00006 moles, 0.045 grams | CC(=O)[O-].CC(=O)[O-].C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd+2]
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | ethyl 4-cyano-3-[4-(2-cyanophenyl)phenyl]-5-ethyl-1-methylpyrrole-2-carboxylate | 0.00188 moles, 0.72 g, 62.6% yield | C(#N)C=1C(=C(N(C1CC)C)C(=O)OCC)C1=CC=C(C=C1)C1=C(C=CC=C1)C#N | C24H21N3O2
